US04812483
A mixture of 2,2-dimethyl-3-(3-phenoxybenzyloxy)propan-1-al (0.25 g), triphenylphosphine (0.47 g), zinc dust (0.12 g) and carbon tetrachloride (0.2 cm3) was heated at the relux temperature for one hour. After cooling to the ambient temperature (ca 25° C.) the mixture was diluted with petroleum ether (boiling range 40°-60° C.) and the solid component removed by filtration. The filtrate was concentrated by evaporation of the solvent under reduced pressure, and the residual oil subjected to purification by flash chromatography using a silica gel column eluted with dichloromethane to yield 2,2-dimethyl-1-(3-phenoxybenzyloxy)-4,4-dichlorobut-3-ene (0.2 g).

reactant | 2,2-dimethyl-3-(3-phenoxybenzyloxy)propan-1-al | 0.25 g | CC(C=O)(COCC1=CC(=CC=C1)OC1=CC=CC=C1)C | C18H20O3
reactant | triphenylphosphine | 0.47 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | carbon tetrachloride | 0.2 cm3 | C(Cl)(Cl)(Cl)Cl | CCl4
catalyst | zinc | 0.12 g | [Zn] | Zn
product | 2,2-dimethyl-1-(3-phenoxybenzyloxy)-4,4-dichlorobut-3-ene | 0.2 g | CC(COCC1=CC(=CC=C1)OC1=CC=CC=C1)(C=C(Cl)Cl)C | C19H20Cl2O2
